US08067422B2
Thionyl chloride (576.0 g, 4.8 mol) was added over a period of 15 min to a solution of 3,5-bis trifluoro methyl benzoic acid (Lancaster) (250.0 g, 0.97 mol) in chloroform (2.5 L) at room temperature. The reaction mixture was heated to reflux temperature for 1 hour. The excess of thionyl chloride was removed by co-distillation with chloroform under reduced pressure. After the end of the distillation, the resulting 3,5-bis trifluoro methyl benzoyl chloride was cooled down to room temperature and dissolved in 400 ml chloroform. A solution of 4-methyl-3-nitroaniline (92.0 g, 0.60 mol) in chloroform (1.2 L) was cooled to −5° C. and triethyl amine (304.8 g, 3.0 mol) was added. 3,5-bis trifluoro methyl benzoyl chloride in chloroform was added drop wise at −5° C. over a period of 60-75 min. The resulting suspension was stirred for 1 hr at −5° C. The suspension was distilled to a residual volume of 800 ml and filtered, washed with chilled chloroform (200 ml) and dried in vacuum to give 160.0 g of novel (3,5-bis trifluoromethyl)-N-(4-methyl-3-nitrophenyl)-)-benzamide (68%) as cream colored crystals (98.2% purity by HPLC) MR-123-130° C.

reactant | Thionyl chloride | 4.8 mol, 576.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3,5-bis trifluoro methyl benzoic acid | 0.97 mol, 250.0 g | FC(C=1C=C(C(=O)O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O2
reactant | 4-methyl-3-nitroaniline | 0.60 mol, 92.0 g | CC1=C(C=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | triethyl amine | 3.0 mol, 304.8 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-bis trifluoro methyl benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
solvent | chloroform | 2.5 L | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1.2 L | C(Cl)(Cl)Cl | CHCl3
product | benzamide | 68% | C(C1=CC=CC=C1)(=O)N | C7H7NO
